Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.34837172641
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][H:12],4.80252154417
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.348875900921
[C:1].[C:2]#[C:3][O:4][H:5]>>[C:1]#[C:2][C:3][O:4][H:5],-6.43350704296
[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.00088515821
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:12]([H:13])[H:14].[H:3][C:4]([H:5])=[C:10]([C:8](=[C:6][H:7])[H:9])[H:11],5.27156033054
[H:1][O:2][C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.70428972648
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.93529406732
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-4.54294141809
[H:1][C:2]([H:3])[O:4][C:5]#[C:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10],-0.990462302129
[H:1][C:2]#[C:3][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-2.01311808527
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-0.53845512847
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.70026791591
[C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.02298267352
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.45647861417
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],3.99171223285
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.6060273633700002
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],2.0657199592
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8][O:9][H:10],1.51041236689
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])=[C:7]=[C:8]([H:9])[H:10].[H:6],1.7837084988299998
[H:4].[O:1][O:2][C:3](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.81685375878
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.03508947261
[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-4.19191857747
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5],4.22725557755
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]1([H:10])[H:11],0.6428153954
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.668780986880001
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.28823451125
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[O:1]=[C:2]([H:3])[H:4],-0.7479528023600001
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.7655881757300005
